US04014920
4.3 g (0.016 mol) of 1-[4-(2-acetylaminovinyl)-2-methoxy-phenoxy]-2,3-epoxy-propane are heated to 80° C with a solution of 1.4 ml (0.016 mol) of isopropylamine in 100 ml of isopropanol for 3 hours under reflux. The mixture is then evaporated in vacuo and the crude base obtained is crystallised from isopropanol-ethyl acetate. 1-[4-(2-Acetyl-aminovinyl)-2methoxy-phenoxy]-2-hydroxy-3-isopropylamino-propane of melting point 139°-140° C is obtained.

reactant | 1-[4-(2-acetylaminovinyl)-2-methoxy-phenoxy]-2,3-epoxy-propane | 0.016 mol, 4.3 g | C(C)(=O)NC=CC1=CC(=C(OCC2CO2)C=C1)OC | C14H17NO4
reactant | isopropylamine | 0.016 mol, 1.4 ml | C(C)(C)N | C3H9N
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 1-[4-(2-Acetyl-aminovinyl)-2methoxy-phenoxy]-2-hydroxy-3-isopropylamino-propane | C(C)(=O)C(=CC1=CC(=C(OCC(CNC(C)C)O)C=C1)OC)N | C17H26N2O4
